US06860928B2
Pentaerythritol tetratosylate was prepared as follows: A mixture of pentaerythritol (27.20 grams, 199.8 mmol; obtained from Aldrich Chemical Co., Milwaukee, Wis.) and p-toluenesulfonyl chloride (171.0 grams, 897.0 mmol; obtained from Aldrich Chemical Co., Milwaukee, Wis.) in dry pyridine (300 milliliters; obtained from Anachemia) was stirred for 48 hours under nitrogen gas. This mixture was then added to 2 liters of 6 Normal hydrochloric acid. The resulting white precipitate was filtered and washed with methanol. The solid was recrystallized from benzene to afford pure pentaerythritol tetratosylate (136.5 grams, 181.3 mmol, 91 percent yield) as white crystals: mp 155-156° C.; IR (KBr) 3047, 2958, 2926, 1907, 1599, 1468, 1367, 1296, 1174, 1180, 1096, 976, 835, 666, 607, 554 cm−1; 1H NMR (400 MHz, CDCl3) δ7.68 (d, 8H, 3J=8.2 Hz) 7.36 (d, 8H, 3J=8.2 Hz), 3.82 (s, 8H), 2.47 (s, 12H); 13C NMR (100 MHz, CDCl3) δ145.86, 131.50, 130.38, 128.15, 65.74, 43.41, 21.90; MS (FAB, 3-nitrobenzyl alcohol) m/e 753; Anal. Calcd for C33H36O12S4: C, 52.64; H, 4.82: S, 17.04. Found: C, 52.98; H, 4.77; S, 17.60.

reactant | pentaerythritol | 199.8 mmol, 27.20 grams | OCC(CO)(CO)CO | C5H12O4
reactant | p-toluenesulfonyl chloride | 897.0 mmol, 171.0 grams | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 300 milliliters | N1=CC=CC=C1 | C5H5N
product | pentaerythritol tetratosylate | 181.3 mmol, 136.5 grams, 91 percent yield | S(=O)(=O)(C1=CC=C(C)C=C1)OCC(COS(=O)(=O)C1=CC=C(C)C=C1)(COS(=O)(=O)C1=CC=C(C)C=C1)COS(=O)(=O)C1=CC=C(C)C=C1 | C33H36O12S4
